US08703761B2
To a stirred solution of methyl carbamimidothioate (0.901 g, 10 mmol) in 10 ml of THF were added TEA (6.97 ml, 50.0 mmol) and benzoyl chloride (3.48 ml, 30.0 mmol) at r.t. The reaction was stirred for over night. The reaction mixture was diluted with water (20 ml) and the resulting precipitates were collected by filtration. The filter cake was washed with water and heptane. It was dried by suction in air for 4 hours to yield (Z)-methyl N,N′-dibenzoylcarbamimidothioate. After the filtration, it was pure by LCMS. It was carried on to the next step. LCMS method A, (M+H)+299.1, ret T=1.66 min.

reactant | methyl carbamimidothioate | 10 mmol, 0.901 g | C(N)(=N)SC | C2H6N2S
reactant | benzoyl chloride | 30.0 mmol, 3.48 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | (Z)-methyl N,N′-dibenzoylcarbamimidothioate | C(C1=CC=CC=C1)(=O)N/C(=N/C(C1=CC=CC=C1)=O)/SC | C16H14N2O2S
